US09216980B2
Step 2: 3-(1-Pyrrolidinylcarbonylamino)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile
A solution of 3-amino-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (47.9 mg, 0.229 mmol) in pyridine (6.1 mL) was treated with pyrrolidine-1-carbonyl chloride (83.4 μL, 0.755 mmol) and heated at 60° C. for 4 h. The cooled reaction mixture was treated with saturated aqueous sodium bicarbonate solution then diluted with 20% MeOH in DCM and water. The layers were separated, the aqueous phase extracted with 20% MeOH in DCM, and the combined organic phase was dried over sodium sulfate and concentrated in vacuo. The resultant residue was dissolved in DCM/methanol, absorbed onto silica gel, and purified by flash chromatography (silica, 4 g column, Biotage, 1-20% methanol in DCM containing 0 1% 7N ammonia in MeOH). Collecting appropriate fractions afforded a yellow solid which was further purified by preparative HPLC (5-85% MeCN in water (0.1% NH4OH) over 30 min, 35 mL/min) to afford the title compound as an off-white solid (8.0 mg, 11%). 1H NMR (400 MHz, DMSO-D6): 12.92 (s, 1H), 8.78 (s, 1H), 8.70 (dd, J=4.7, 1.4 Hz, 1H), 8.60 (dd, J=7.9, 1.4 Hz, 1H), 7.47 (dd, J=7.9, 4.8 Hz, 1H), 4.71 (dd, J=8.7, 4.6 Hz, 1H), 2.85 (m, 2H), 2.07 (m, 4H), 1.92 (m, 2H). LCMS (Method E): RT=3.36 min, M+H+=307.

reactant | 3-amino-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 0.229 mmol, 47.9 mg | NC1=CC2=C(NC3=C2C=C(N=C3)C#N)N=C1 | C11H7N5
reactant | pyrrolidine-1-carbonyl chloride | 0.755 mmol, 83.4 μL | N1(CCCC1)C(=O)Cl | C5H8ClNO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | pyridine | 6.1 mL | N1=CC=CC=C1 | C5H5N
solvent | MeOH | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-(1-Pyrrolidinylcarbonylamino)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 8.0 mg, 11% | N1(CCCC1)C(=O)NC1=CC2=C(NC3=C2C=C(N=C3)C#N)N=C1 | C16H14N6O
